US08217069B2
3-[2-Chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-dihydro-2H-imidazo[4,5-b]pyridin-2-one
To a mixture of 2-chloronicotinic acid (0.47 g) and 2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyaniline (0.99 g) in tetrahydrofuran (5 mL) was added lithium hexamethyldisilazide (1.05 mol/L n-hexane solution, 8.57 mL) at −78° C., and the mixture was stirred at the same temperature for 10 minutes. To the reaction mixture was added tetrahydrofuran (4 mL), and the mixture was allowed to warm slowly to room temperature, and the mixture was stirred at room temperature overnight. To the reaction mixture was added 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate twice. The extracts were washed with water and brine, and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. To the mixture of the residue and triethylamine (1.25 mL) in 1,4-dioxane (10 mL) was added diphenylphosphoryl azide (0.71 mL), and the mixture was stirred at room temperature for 1 hour, and then heated at reflux for 2 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=3/2−1/4) to give the title compound (0.94 g).

reactant | 2-chloronicotinic acid | 0.47 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | 2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyaniline | 0.99 g | ClC1=C(N)C=C(C(=C1)OC)OCC1=C(C(=CC=C1OC)F)F | C15H14ClF2NO3
reactant | lithium hexamethyldisilazide | 1.05 mol/L, 8.57 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 3-[2-Chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 0.94 g | ClC1=C(C=C(C(=C1)OC)OCC1=C(C(=CC=C1OC)F)F)N1C(NC=2C1NC=CC2)=O | C21H18ClF2N3O4
